US07071175B1
A solution of diethylamine (0.26 g, 2.67 mmol) in methylene chloride (4 mL) was added to a mixture of 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid monoethyl ester (0.90 g, 2.66 mmol) and 37% aq. solution of formaldehyde (0.24 g, 3.00 mmol) at 0° C. The mixture was stirred for 5 h at room temperature and the mixture was poured onto ice-water and extracted with methylene chloride. The organic layer was washed with 5% NaHCO3 and dried. The crude product was purified by flash chromatography (1% methanol in CH2Cl2) to yield 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-acrylic acid ethyl ester (0.58 g, 71%).

reactant | diethylamine | 2.67 mmol, 0.26 g | C(C)NCC | C4H11N
reactant | 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid monoethyl ester | 2.66 mmol, 0.90 g | C(C)OC(C(C(=O)O)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C16H22N2O6
reactant | formaldehyde | 3.00 mmol, 0.24 g | C=O | CH2O
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-acrylic acid ethyl ester | 0.58 g, 71% | C(C)OC(C(=C)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C16H22N2O4
